US08609692B2
6-fluoro-2,2-bis(fluoromethyl)chroman-4-one
A solution of 1,3-difluoroacetone (4.90 g, 52.1 mmol), MeOH (100 mL), and 1-(5-fluoro-2-hydroxyphenyl)ethanone (6.69 g, 43.4 mmol, Aldrich Chemical) was stirred at ambient temperature and pyrrolidine (4.31 mL, 52.1 mmol) was added. The reaction was heated at 60° C. for 21 hours, then concentrated and purified by silica gel chromatography (gradient elution, 0-25% EtOAc/hexanes) to provide the title compound (6.70 g, 29.1 mmol, 67%) as a brown oil. MS (DCI) m/z 248 (M+NH4)+.

reactant | 1,3-difluoroacetone | 52.1 mmol, 4.90 g | FCC(=O)CF | C3H4F2O
reactant | 1-(5-fluoro-2-hydroxyphenyl)ethanone | 43.4 mmol, 6.69 g | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
reactant | pyrrolidine | 52.1 mmol, 4.31 mL | N1CCCC1 | C4H9N
solvent | MeOH | 100 mL | CO | CH4O
product | 6-fluoro-2,2-bis(fluoromethyl)chroman-4-one | 29.1 mmol, 6.70 g, 67% | FC=1C=C2C(CC(OC2=CC1)(CF)CF)=O | C11H9F3O2
